US06855722B2
c) 3-(5-Amino-indol-1-yl)-hexanoic acid ethyl ester
A mixture of 3-(5-nitro-indol-1-yl)-hexanoic acid ethyl ester (1.49 g, 4.9 mmol), and 10% palladium on activated carbon (149 mg) in ethanol (15 mL) was hydrogenated in a hydrogen balloon for 2 days. The mixture was filtered through Celite, and the Celite was washed with methanol. The filtrate and washing were combined, concentrated, and flash chromatographed on silica gel, eluting with EtOAc/DCM (20, 30%) to afford the title compound (1.05 g, 78% yield) as dark brown oil. 1H NMR (CDCl3) δ 7.22 (d, 1H, J=8.7 Hz), 7.05 (d, 1H, J=3.2 Hz), 6.90 (d, 1H, J=2.3 Hz), 6.66 (dd, 1H, J=2.2, 8.7 Hz), 6.33 (d, 1H, J=3.2 Hz), 4.78-4.73 (m, 1H), 4.02-3.96 (m, 2H), 3.47 (bs, 2H), 2.87-2.74 (m, 2H), 1.94-1.87 (m, 1H), 1.84-1.77 (m, 1H), 1.27-1.09 (m, 2H), 1.08 (t, 3H, J=7.1 Hz), 0.85 (t, 3H, J=7.3 Hz).

reactant | 3-(5-nitro-indol-1-yl)-hexanoic acid ethyl ester | 4.9 mmol, 1.49 g | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)[N+](=O)[O-])=O | C16H20N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 149 mg | [Pd] | Pd
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(5-Amino-indol-1-yl)-hexanoic acid ethyl ester | 1.05 g, 78% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)N)=O | C16H22N2O2
